US07807691B2
2-Benzo[1,3]dioxol-5-yl-2-methyl-pyrrolidine
To a −78° C. solution of 5-benzo[1,3]dioxol-5-yl-3,4-dihydro-2H-pyrrole (1.67 g, 8.83 mmol) in THF (60 mL) add boron trifluoride diethyl etherate (1.22 mL, 9.71 mmol) dropwise over 5 min. Stir the resulting cloudy reaction mixture at this temperature for 40 min, and then add methyllithium (1.6 M in diethyl ether, 27.5 mL, 44.1 mmol) dropwise via a syringe pump (about 1.1 mL/minute) over 20 min. Maintain the reaction temperature at −78° C. for 2.5 h and then warm to 0° C. over 1.5 h. Quench the reaction by the addition of water (50 mL) and saturated aqueous ammonium chloride (50 mL), then adjust the mixture to a pH of about 11-12 using aqueous 2 M NaOH, and extract with 9:1 methylene chloride/chloroform (3×330 mL). Dry the combined organic layer (MgSO4), filter and concentrate under reduced pressure to obtain a crude brown oil (˜2.6 g). Subject the crude residue (dry loaded on silica gel using CH2Cl2) to flash chromatography (120 g silica gel, gradient from 80:20 to 50:50 CH2Cl2/[90:10:1 CH2Cl2/MeOH/NH4OH]) to afford pure title compound (910 mg, 50%, >95% purity by 1H NMR) and impure title compound (358 mg, 20%, ˜85% purity by 1H NMR) as light brown oils. MS (ESI+): 206 (M+1)+; 1H NMR (300 MHz, CDCl3): δ 7.01 (d, J=1.8 Hz, 1H), 6.93 (dd, J=8.1, 1.8 Hz, 1H), 6.75 (d, J=8.1 Hz, 1H), 5.92 (s, 2H), 3.12-3.05 (m, 1H), 3.00-2.92 (m, 1H), 2.06-2.00 (m, 1H), 1.88-1.69 (m, 4H), 1.40 (s, 3H).

reactant | 5-benzo[1,3]dioxol-5-yl-3,4-dihydro-2H-pyrrole | 8.83 mmol, 1.67 g | O1COC2=C1C=CC(=C2)C=2CCCN2 | C11H11NO2
reactant | boron trifluoride diethyl etherate | 9.71 mmol, 1.22 mL | B(F)(F)F.CCOCC
reactant | methyllithium | 44.1 mmol, 1.6 M, 27.5 mL | C[Li]
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
reactant | NaOH | 2 M | [OH-].[Na+]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | 2-Benzo[1,3]dioxol-5-yl-2-methyl-pyrrolidine | 358 mg | O1COC2=C1C=CC(=C2)C2(NCCC2)C | C12H15NO2
